US04587049
A mixture of 66.2 g (0.18 mole) of diethyl[1-(2,4-dimethoxy-benzyl)-4-oxo-2,2-azetidine-dicarboxylate] prepared according to the preceding paragraph, 70 ml of dimethyl sulfoxide, 12.7 g (0.22 mole) of sodium chloride and 6.5 ml (0.36 mole) of water is stirred on an oil bath (temperature 170°-180° C. for 6 hours. The reaction mixture is poured into 500 ml of a saturated aqueous sodium chloride solution, extracted five times with 100 ml ethyl acetate each, the organic phase is dried over anhydrous magnesium sulfate, filtered and from the filtrate the ethyl acetate is distilled off. Thus 47.6 g of ethyl-[1-(2,4-dimethoxy-benzyl)-4-oxo-2-azetidine-carboxylate] are obtained. B.p.: 170°-176° C./0.15 Hgmm.

reactant | diethyl[1-(2,4-dimethoxy-benzyl)-4-oxo-2,2-azetidine-dicarboxylate] | 0.18 mole, 66.2 g | C(C)OC(=O)C1(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)C(=O)OCC | C18H23NO7
reactant | sodium chloride | 0.22 mole, 12.7 g | [Cl-].[Na+]
reactant | water | 0.36 mole, 6.5 ml | O | H2O
reactant | sodium chloride | 500 ml | [Cl-].[Na+]
solvent | dimethyl sulfoxide | 70 ml | CS(=O)C | C2H6OS
product | ethyl-[1-(2,4-dimethoxy-benzyl)-4-oxo-2-azetidine-carboxylate] | 47.6 g | C(C)OC(=O)C1N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC | C15H19NO5
